* ---------------------------------------------------------------------------
* envfollow - envelope follower for the Quack VCF control voltage
*
* Pins:  in cv vref vp vn
*   in : RAW split (pre-fuzz) - full picking dynamics, centered on vref
*   cv : control voltage, cv = vref + envelope(|in-vref|), buffered
*
* Full-wave precision rectifier (reuse fwr, no diode dead-zone) -> two-pole RC
* averaging filter -> buffer. Averaging (not peak-detect) is deliberate: the
* earlier precision peak detector hunted in a ~12 Hz limit cycle (op-amp
* saturates when its diode is reverse-biased, then slew-recovers), which made
* the filter "re-trigger" on held notes. A linear averaging filter cannot do
* that and rejects the 2f rectifier ripple cleanly.
*
* Two poles ~22 Hz: 2f ripple (>=300 Hz) is cut >300x; envelope attack ~25 ms
* (snappy enough for the quack, smooth on sustain). Asymmetric attack/release
* can be added later if more spank is wanted.
* ---------------------------------------------------------------------------
.subckt envfollow in cv vref vp vn
Xrec in rabs vref vp vn fwr
Ra  rabs n1 15k
Ca  n1   vref 220n          ; pole ~48 Hz
Rb  n1   n2 15k
Cb  n2   vref 220n          ; pole ~48 Hz (2-pole -> steep ripple rejection)
Xbuf n2  cv cv vp vn opamp
.ends envfollow
